US05114944
2-Phenylpyrazolo[1.5-a]pyrimidine-3-acetic acid
A solution of 12.25 g (0.043 mole) of 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid ethyl ester in 100 ml of absolute ethanol was treated with 6.9 g (0.087 mole) of 50% sodium hydroxide and 35 ml of water and refluxed for 4 hours under a nitrogen atmosphere. The solvent was evaporated under reduced pressure and the residue was dissolved in water (100 ml). Acidification with glacial acetic acid produced a solid precipitate. The solid was collected by filtration to yield 10.8 g of crude product, mp 78°-90° C. Recrystallization from acetone-water, and then from toluene provided 8.25 g (75%) of product, mp 153°-156° C.

reactant | 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid ethyl ester | 0.043 mole, 12.25 g | C(C)OC(CC=1C(=NN2C1N=CC=C2)C2=CC=CC=C2)=O | C16H15N3O2
reactant | sodium hydroxide | 0.087 mole, 6.9 g | [OH-].[Na+]
reactant | water | 35 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Phenylpyrazolo[1.5-a]pyrimidine-3-acetic acid | 8.25 g, 75% | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H11N3O2
